US06797708B2
100 mg of 4-{2-[1-Benzhydryl-2-(2-carboxy-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester (0.0002 M, 1 eq.) was dissolved in 1.0 ml of anhydrous methylene chloride. To the solution 33.5 mg of oxalyl chloride (0.0003M, 1.5 eq.) was added and the reaction stirred for one hour at room temperature. The reaction was then evaporated to dryness and the residue dissolved in 1.0 mL of anhydrous ethyl ether to which 0.027 mL of TMEDA was added. To this solution 0.35 mL of zinc borohydride solution in ether prepared by the literature method (Tet. Lett. Vol. 22, pg.4723, 1981) was added. The reaction was stirred for 15 min. at room temperature and quenched with 1.0 mL of water. The reaction was diluted with 10 mL of ethyl ether and the water layer separated, the organic layer was dried over magnesium sulfate, filtered and evaporated to a clear oil. The oil was chromatographed with ethyl acetate/ hexanes (1:9) to result in isolation of 4-{2-[1-Benzhydryl-5-chloro-2-(3-hydroxy-propyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester as a white foam (81 mg, 83% yield).

reactant | 4-{2-[1-Benzhydryl-2-(2-carboxy-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 0.0002 M, 100 mg, 1 eq. | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCC(=O)O)=O | C34H30ClNO5
reactant | oxalyl chloride | 0.0003M, 33.5 mg, 1.5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 1.0 ml | C(Cl)Cl | CH2Cl2
product | 4-{2-[1-Benzhydryl-5-chloro-2-(3-hydroxy-propyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 81 mg, 83% yield | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCO)=O | C34H32ClNO4
